US08937091B2
2-piperidinoethyl-5-methyl-2-naphthylketone 8318
5-methylacryloylnaphthalene (21.8 mg) and piperidine (9.1 mg) were reacted at 50° C. for 5 hours.

reactant | 5-methylacryloylnaphthalene | 21.8 mg | CC=CC(=O)C1=C2C=CC=CC2=CC=C1 | C14H12O
reactant | piperidine | 9.1 mg | N1CCCCC1 | C5H11N
product | 2-piperidinoethyl-5-methyl-2-naphthylketone | N1(CCCCC1)CCC1=C(C=CC2=C(C=CC=C12)C)C(=O)C1=C(C2=CC=CC(=C2C=C1)C)CCN1CCCCC1 | C37H44N2O
